US04188395
2-Acetoxymethyl-6-methyl-4-(2'-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
7 g of 2-chlorobenzaldehyde, 9.4 g of γ-acetoxy-acetoacetic acid ethyl ester and 6.5 g of β-aminocrotonic acid ethyl ester in 40 ccs of ethanol are heated under reflux overnight and cooled and light yellow crystals of melting point 102° C. are obtained, yield: 40%.

reactant | 2-chlorobenzaldehyde | 7 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | γ-acetoxy-acetoacetic acid ethyl ester | 9.4 g | C(C)OC(CC(=O)COC(C)=O)=O | C8H12O5
reactant | β-aminocrotonic acid ethyl ester | 6.5 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Acetoxymethyl-6-methyl-4-(2'-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield: 40% | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)Cl)C(=O)OCC)C)COC(C)=O | C21H24ClNO6
